US07652051B2
Synthesis of 6-[4-(5-{[4-chloro-3-trifluoromethyl-phenyl]amino}-1,3,4-oxadiazol-2-yl)-phenoxy]-pyrimidine-2,4-diamine trifluoroacetic acid salt
4-(5-{[4-chloro-3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol (100 mg, 0.281 mmol) was dissolved in 2.5 mL of anhydrous DMF in a 5 mL microwave vial. Solid potassium bis(trimethylsilyl)amide (140.6 mg, 0.703 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 15 min, then 6-chloro-2,4-diamino-pyrimidine (81.3 mg, 0.562 mmol) was added, followed by anhydrous K2CO3 (19.5 mg, 0.141 mmol). Then the vial was capped and microwaved at 200° C. for 15 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. The product was isolated as a TFA salt (75.8 mg of beige solid).

reactant | 4-(5-{[4-chloro-3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol | 0.281 mmol, 100 mg | ClC1=C(C=C(C=C1)NC1=NN=C(O1)C1=CC=C(C=C1)O)C(F)(F)F | C15H9ClF3N3O2
reactant | potassium bis(trimethylsilyl)amide | 0.703 mmol, 140.6 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 6-chloro-2,4-diamino-pyrimidine | 0.562 mmol, 81.3 mg | ClC1=CC(=NC(=N1)N)N | C4H5ClN4
reactant | K2CO3 | 0.141 mmol, 19.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 6-[4-(5-{[4-chloro-3-trifluoromethyl-phenyl]amino}-1,3,4-oxadiazol-2-yl)-phenoxy]-pyrimidine-2,4-diamine trifluoroacetic acid salt | 75.8 mg | FC(C(=O)O)(F)F.ClC1=C(C=C(C=C1)NC1=NN=C(O1)C1=CC=C(OC2=CC(=NC(=N2)N)N)C=C1)C(F)(F)F | InChI=1S/C19H13ClF3N7O2.C2HF3O2/c20-13-6-3-10(7-12(13)19(21,22)23)26-18-30-29-16(32-18)9-1-4-11(5-2-9)31-15-8-14(24)27-17(25)28-15;3-2(4,5)1(6)7/h1-8H,(H,26,30)(H4,24,25,27,28);(H,6,7)
